US08314091B2
B: (R)—N-tert-Butyl-3-((2-methylpiperazin-1-yl)methyl)benzamide
(R)-tert-Butyl 4-(3-(tert-butylcarbamoyl)benzyl)-3-methylpiperazine-1-carboxylate (8.03 g, 20.61 mmol) was stirred in a mixture of dichloromethane:trifluoroacetic acid (1:1) for 2 hours. The reaction mixture was concentrated under vacuum and purified by strong cation exchange column chromatography to afford the title compound (3.06 g).

reactant | (R)-tert-Butyl 4-(3-(tert-butylcarbamoyl)benzyl)-3-methylpiperazine-1-carboxylate | 20.61 mmol, 8.03 g | C(C)(C)(C)NC(=O)C=1C=C(CN2[C@@H](CN(CC2)C(=O)OC(C)(C)C)C)C=CC1 | C22H35N3O3
solvent | dichloromethane trifluoroacetic acid | ClCCl.FC(C(=O)O)(F)F
product | (R)—N-tert-Butyl-3-((2-methylpiperazin-1-yl)methyl)benzamide | 3.06 g | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1[C@@H](CNCC1)C)=O | C17H27N3O
